US05532235
1,4,5,6-Tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine
To a slurry of 0.51 g of 6-[(dimethylamino)methylene]-6,7,8,9-tetrahydro-9-(4-nitrobenzoyl)-5H-pyrido[2,3-b]azepin-5-one in 17 ml of methanol under argon is added 0.14 g of hydrazine hydrate. The mixture is stirred overnight and the solvent removed under vacuum. The residue is dissolved in hot chloroform-methanol (95:5) and filtered through silica gel and washed filter pad with chloroform-methanol (95: 5). The filtrate is concentrated to dryness to give 0.48 g of yellow solid.

reactant | 6-[(dimethylamino)methylene]-6,7,8,9-tetrahydro-9-(4-nitrobenzoyl)-5H-pyrido[2,3-b]azepin-5-one | 0.51 g | CN(C)C=C1C(C2=C(N(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)N=CC=C2)=O | C19H18N4O4
reactant | hydrazine hydrate | 0.14 g | O.NN
solvent | methanol | 17 ml | CO | CH4O
product | 1,4,5,6-Tetrahydro-6-(4-nitrobenzoyl)pyrazolo[3,4-d]pyrido[2,3-b]azepine | 0.48 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)C=CC=N3)C=C1 | C17H13N5O3
